US08647827B2
2-Fluoro-N,N-dimethyl-4-(pyridin-4-yl)aniline (0.5 g, 2.3 mmols) was dissolved in acetonitrile (50 ml) and methyl iodide (3 ml) was added. The mixture was heated at reflux for 2 hrs. This was cooled to ambient temperature and evaporated the product was purified by recrystallization from ethanol/diethyl ether. To give 0.2 g of 4-(4-(dimethylamino)-3-fluorophenyl)-1-methylpyridinium iodide 21% yield as a red solid. 1H NMR (DMSO-d6) δ 3.0 (s, 6H), 4.25 (s, 3H), 7.02 (t, 1H), 7.90 (m, 2H), 8.90 (d, 2H), 8.90 (d, 2H).

reactant | 2-Fluoro-N,N-dimethyl-4-(pyridin-4-yl)aniline | 2.3 mmols, 0.5 g | FC1=C(N(C)C)C=CC(=C1)C1=CC=NC=C1 | C13H13FN2
reactant | methyl iodide | 3 ml | CI | CH3I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(4-(dimethylamino)-3-fluorophenyl)-1-methylpyridinium iodide | 0.2 g, 21% yield | [I-].CN(C1=C(C=C(C=C1)C1=CC=[N+](C=C1)C)F)C | InChI=1S/C14H16FN2.HI/c1-16(2)14-5-4-12(10-13(14)15)11-6-8-17(3)9-7-11;/h4-10H,1-3H3;1H/q+1;/p-1
